US06114358
c) Ethyl 2-formyllevulinate
A mixture of 106.3 g (0.489 mol) of ethyl 4,4-diethoxypentanoate and 80 ml (73.6 g, 0.99 mol) of ethyl formate was added dropwise to a vigorously stirred suspension of 12.7 g (0.55 gram atom) of sodium (shavings) in 300 ml of anhydrous benzene at 10-15° C. over 3 h. Stirring was continued for a further 3 h, and the reaction mixture was left to stand overnight. 250 ml of water were added with vigorous stirring, and this was continued for a further 15 min. The water layer was separated off, and the benzene layer was extracted with 70 ml of water. The combined aqueous extracts were acidified to pH 2 and extracted with ethyl acetate (5×50 ml), and the organic extracts were dried over calcium chloride.

reactant | ethyl 4,4-diethoxypentanoate | 0.489 mol, 106.3 g | C(C)OC(CCC(=O)OCC)(C)OCC | C11H22O4
reactant | ethyl formate | 0.99 mol, 80 ml, 73.6 g | C(=O)OCC | C3H6O2
reactant | sodium | 12.7 g | [Na] | Na
reactant | water | 250 ml | O | H2O
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | Ethyl 2-formyllevulinate | C(=O)C(C(=O)OCC)CC(=O)C | C8H12O4
